US05523403
(±)-N-[[3-[4-(4-methoxy-5-oxo-1,3,6-cycloheptatrien-1-yl)-3,5-difluorophenyl]-2-oxo-5-oxazolidinyl ]methyl ]acetamide.
The (±)-N-[[3-[4-(trimethylstannyl)-3,5-difluorophenyl ]-2-oxo-5oxazolidinyl]methyl]acetamide (80 mg, 0.185 mmol) was dissolved in 1,4-dioxane (5 mL) and then treated with the 5-bromo-2-methoxytropolone (49.5 mg, .230 mmol). After degassing the solution 3 times with N2, the bis(triphenylphosphine)palladium(II) chloride (28 mg, .040 mmol) was added. The solution was degassed (3x) again, after which the reaction was heated to reflux (110° C.) for 5 h. At this point, the reaction was incomplete; more catalyst (28 mg, 0.040 mmol) was added and, after degassing (3×), the solution was again heated to reflux for 5 h. At this time, the reaction was still incomplete; the above process was repeated a third time with more fresh catalyst (28 mg). Finally, the solvent was removed in vacuo and the residual oil was dissolved in CH2Cl2 (50 mL). The CH2Cl2 solution was washed with aqueous KF (75 mL) and brine (50 mL). After drying over anhydrous Na2SO4, the organic layer was filtered and concentrated under reduced pressure to yield a foamy solid. This solid was purified first by preparative TLC (5% MeOH/CHCl3), and then by radial chromatography (eluting with a gradient of 0-5% MeOH in 10% CH3CN/CHCl3) to give 7 mg (9%) of the title compound as a solid with a HRMS (M+) calculated for C20H18F2N2O5 404.1184, found 404.1183.

reactant | (±)-N-[[3-[4-(trimethylstannyl)-3,5-difluorophenyl ]-2-oxo-5oxazolidinyl]methyl]acetamide | 0.185 mmol, 80 mg | C[Sn](C1=C(C=C(C=C1F)N1C(OC(C1)CNC(C)=O)=O)F)(C)C
reactant | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | bis(triphenylphosphine)palladium(II) chloride | .040 mmol, 28 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (±)-N-[[3-[4-(4-methoxy-5-oxo-1,3,6-cycloheptatrien-1-yl)-3,5-difluorophenyl]-2-oxo-5-oxazolidinyl ]methyl ]acetamide | 7 mg, 9% | COC1=CC=C(C=CC1=O)C1=C(C=C(C=C1F)N1C(OC(C1)CNC(C)=O)=O)F | C20H18F2N2O5
